US04996354
A 35-1 solids mixer was charged with 10 kg of sodium bicarbonate, 5 kg of potassium bicarbonate and 3.3 kg of resorcinol and heated with mixing to 120° C. in a stream of carbon dioxide. After 3 hours the contents were cooled down with mixing, and 28 l of water were added. The hot suspension at 60° C. was then discharged and brought to pH 3 at room temperature with 20 kg of concentrated hydrochloric acid. The suspension was cooled to 10-15° C. and filtered on a filter press, and the filter residue was washed with water and dried, leaving 4.1 kg (81%) of 2,4-dihydroxybenzoic acid; purity (HPLC): 99.5%.

reactant | sodium bicarbonate | 10 kg | C([O-])(O)=O.[Na+]
reactant | potassium bicarbonate | 5 kg | C([O-])(O)=O.[K+]
reactant | resorcinol | 3.3 kg | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 20 kg | Cl | ClH
solvent | water | 28 l | O | H2O
product | 2,4-dihydroxybenzoic acid | 4.1 kg, 81% | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
